US07601856B2
Following the procedure of Example 30, triethylamine (0.40 mL, 2.9 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.33 g, 1.7 mmol), N-hydroxybenzotriazole (0.23 g, 1.7 mmol), 4-pyridylacetic acid(0.24 g, 1.4 mmol), and 6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.25 g, 1.2 mmol) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2-pyridin-4-ylacetamide (0.18 g). MS (ESI) m/z 335 ([M+H]+); MS (ESI) m/z 333 ([M−H]−).

reactant | triethylamine | 2.9 mmol, 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.7 mmol, 0.33 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N-hydroxybenzotriazole | 1.7 mmol, 0.23 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-pyridylacetic acid | 1.4 mmol, 0.24 g | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | 6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 1.2 mmol, 0.25 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-2-pyridin-4-ylacetamide | 0.18 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(CC3=CC=NC=C3)=O | C21H22N2O2
